US07288541B2
To 6.65 g (56 mmol) of (2S)-3,3-dimethyl-1,2-butanediol in 13 mL of pyridine at 0° C. was added dropwise a solution of 10.68 g (56 mmol) of p-toluenesulfonyl chloride in 20 mL of pyridine. The solution was maintained at 0° C. for 5 h and then let warm to ambient temperature. After being stirred overnight, the mixture was concentrated, and the residue was taken up in 200 mL of diethyl ether. The ether solution was washed with 50 mL of 1N hydrochloric acid, 50 mL of saturated aqueous sodium bicarbonate, and 50 mL of water, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel chromatography eluting with ethyl acetate:hexanes (3.5:6.5) to give 13 g (85%) of (2S)-2-hydroxy-3,3-dimethylbutyl 4-methylbenzenesulfonate. 1H-NMR (300 MHz, DMSO-d6): δ 7.79 (d, J=8 Hz, 2H), 7.47 (d, J=8 Hz, 2H), 5.11 (br s, 1H), 4.08 (dd, J=10 Hz, J=3 Hz, 1H), 3.76 (dd, J=10 Hz, J=8 Hz, 1H), 3.23 (d, J=8 Hz, 1H), 2.41 (s, 3H), 0.76 (s, 9H). ES-LCMS m/z 273 (M+H), 295 (M+Na).

reactant | (2S)-3,3-dimethyl-1,2-butanediol | 56 mmol, 6.65 g | CC([C@@H](CO)O)(C)C | C6H14O2
reactant | p-toluenesulfonyl chloride | 56 mmol, 10.68 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 13 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | (2S)-2-hydroxy-3,3-dimethylbutyl 4-methylbenzenesulfonate | 13 g, 85% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](C(C)(C)C)O | C13H20O4S
